US08729063B2
To a solution of 1,4-diiodobenzene (16.5 g, 50 mmol) in THF (350 mL) at −78° C. was added n-BuLi (2.5 M, 24 mL) over 1 hour. After being stirred for an additional 30 minutes, a solution of 1,4-dioxa-spiro[4.5]decan-8-one (7.8 g, 50 mmol) in THF (30 mL) was added in and the resulting mixture was stirred for 3 hours. To the mixture was added TMSC1 (5.4 g, 50 mmol) and the resulting mixture was allowed to warm to rt and stirred at rt for 18 hours. The reaction mixture was neutralized to pH 6.0, and extracted with ethyl acetate (3×50 mL). The organic extracts were combined, washed with saline solution (2×50 mL), dried over sodium sulfate, concentrated in vacuo. The residue was chromatographed on silica gel, eluting with hexane/ethyl acetate (95/5 to 100/0). The appropriate fractions were combined to give 8-(4-Iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol (12 g, 66.6%) with LCMS: 361.2 (M+H+, 100%) and {[8-(4-iodophenyl)-1,4-dioxaspiro[4.5]dec-8-yl]oxy}(trimethyl)silane (6 g, 27%) with LCMS: 433.1 (M+H+, 100%).

reactant | 1,4-diiodobenzene | 50 mmol, 16.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | n-BuLi | 2.5 M, 24 mL | [Li]CCCC
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 50 mmol, 7.8 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 8-(4-Iodo-phenyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 12 g, 66.6% | IC1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C14H17IO3
